US07868036B2
c) tert-Butyl {1-formyl-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate
1.27 ml of triethylamine and then (over 20 minutes) a solution of 1.60 g of sulphur trioxide-pyridine complex in 6 ml of dimethyl sulphoxide are added dropwise at 0° C. to the solution of 1.44 g of tert-butyl {1-hydroxymethyl-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate in 10 ml of dichloromethane. After 40 minutes, 10 ml of ice-water are added dropwise and the reaction mixture is stirred at 10° C. for a further 10 minutes. The reaction mixture is extracted with dichloromethane (3×)—the combined organic phases are washed successively with 10% aqueous sodium hydrogensulphate solution, water, 10% sodium hydrogencarbonate solution and brine, dried over magnesium sulphate and concentrated by evaporation. The crude title compound is obtained as a yellowish foam from the residue. Rf=0.73 (2:1 EtOAc-heptane). Rt=5.48 (gradient I).

reactant | triethylamine | 1.27 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl {1-hydroxymethyl-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate | 1.44 g | OCC(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)NC(OC(C)(C)C)=O | C26H42N2O4
solvent | dimethyl sulphoxide | 6 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-Butyl {1-formyl-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate | C(=O)C(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)NC(OC(C)(C)C)=O | C26H40N2O4
